US05022914
4.3 g (0.016 mol) of 2-propionyl-5-(3-tetrahydrothiopyranyl)-cyclohexane-1,3-dione, 4.5 g (0.018 mol) of 4-phenylbut-2-enyloxyammonium oxalate and 3.0 g of sodium bicarbonate are stirred in 100 ml of methanol for 16 hours at 25° C. The solvent is distilled off under reduced pressure and the residue is chromatographed on silica gel with a mixture of toluene and ethyl acetate (8:2 volume ratio). After removal of the solvent there is obtained 2.2 g (34.3% of theory) of 2-[2-(4-phenylbut-2-enyloximino)-propyl]-5-(3-tetrahydrothiopyranyl)-cyclohex-2-en-1-one as a resin.

reactant | 2-propionyl-5-(3-tetrahydrothiopyranyl)-cyclohexane-1,3-dione | 0.016 mol, 4.3 g | C(CC)(=O)C1C(CC(CC1=O)C1CSCCC1)=O | C14H20O3S
reactant | 4-phenylbut-2-enyloxyammonium oxalate | 0.018 mol, 4.5 g | C(C(=O)[O-])(=O)[O-].C1(=CC=CC=C1)CC=CCO[NH3+].C1(=CC=CC=C1)CC=CCO[NH3+]
reactant | sodium bicarbonate | 3.0 g | C([O-])(O)=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-[2-(4-phenylbut-2-enyloximino)-propyl]-5-(3-tetrahydrothiopyranyl)-cyclohex-2-en-1-one | 2.2 g, 34.3% | C1(=CC=CC=C1)CC=CCON=C(CC=1C(CC(CC1)C1CSCCC1)=O)C | C24H31NO2S
